US09233968B1
4-((3-aminophenyl)ethynyl)-1H-indazol-3-amine (50 mg, 0.2 mmol) was taken in 2 ml of tetrahydrofuran, reaction was set under nitrogen atmosphere. 2-fluoro-1-isocyanato-4-methylbenzene was taken in 1 ml of tetrahydrofuran and added dropwise to the solution of 4-((3-aminophenyl)ethynyl)-1H-indazol-3-amine in tetrahydrofuran. The reaction was stirred at room temperature for 30 min, loaded onto silica and columned to give 1-{3-[(3-amino-1H-indazol-4-yl)ethynyl]phenyl}-3-(2-fluoro-5-methylphenyl)urea.

reactant | 4-((3-aminophenyl)ethynyl)-1H-indazol-3-amine | 0.2 mmol, 50 mg | NC=1C=C(C=CC1)C#CC1=C2C(=NNC2=CC=C1)N | C15H12N4
reactant | 2-fluoro-1-isocyanato-4-methylbenzene | FC1=C(C=CC(=C1)C)N=C=O | C8H6FNO
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-{3-[(3-amino-1H-indazol-4-yl)ethynyl]phenyl}-3-(2-fluoro-5-methylphenyl)urea | NC1=NNC2=CC=CC(=C12)C#CC=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)C)F | C23H18FN5O
